US04367234
5-(2,6-Dichlorophenyl)oxazolidine-2,4-dione
Potassium tert-butoxide (5.16 g., 0.046 mole) was dissolved in 60 ml. of tert-butanol. Dimethyl carbonate (4.14 g., 0.046 mole) and then 2-(2,6-dichlorophenyl)-2-hydroxyacetamide (5 g., 0.023 mole) were added. The suspension was heated at reflux for 2 hours and cooled to room temperature. Hydrochloric acid (46 ml. of 1 N) and then 100 ml. of water were added, and the mixture extracted with three portions of methylene chloride. The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness. Recrystallization of the residue from toluene gave purified 5-(2,6-dichlorophenyl)oxazolidine-2,4-dione (3.15 g., 50%; m.p. 151°-153° C.), ir (KBr) 1818, 1739, 1724, 1434, 1377 cm-1.

reactant | Potassium tert-butoxide | 0.046 mole, 5.16 g | CC(C)([O-])C.[K+]
reactant | Dimethyl carbonate | 0.046 mole, 4.14 g | C(OC)(OC)=O | C3H6O3
reactant | 2-(2,6-dichlorophenyl)-2-hydroxyacetamide | 0.023 mole, 5 g | ClC1=C(C(=CC=C1)Cl)C(C(=O)N)O | C8H7Cl2NO2
reactant | Hydrochloric acid | 1 N, 46 ml | Cl | ClH
solvent | water | O | H2O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 5-(2,6-Dichlorophenyl)oxazolidine-2,4-dione | ClC1=C(C(=CC=C1)Cl)C1C(NC(O1)=O)=O | C9H5Cl2NO3
